US07902367B2
1-(tert-Butoxycarbonyl)-3-[(4′-chlorobiphenyl-4-yl)oxymethyl]piperidine
1-(tert-Butoxycarbonyl)piperidin-3-ylmethanol (323 mg, 1.50 mmol) and 4′-chloro-4-hydroxybiphenyl (307 mg, 1.50 mmol) were suspended in tetrahydrofuran (15 mL). To this suspension, triphenylphosphine (608 mg, 2.25 mmol) was added and the mixture was stirred at room temperature for 10 min. A 40% diethylazodicarboxylate/toluene solution (1.36 mL, 3.00 mmol) was then added and the mixture was stirred at room temperature for 16 hours. Subsequently, water was added and the mixture was extracted with ethyl acetate. The extract washed with brine, followed by drying over magnesium sulfate and evaporation of the solvent. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=50:1->10:1) gave 401 mg (67%) of the desired compound as a colorless powder.

reactant | 1-(tert-Butoxycarbonyl)piperidin-3-ylmethanol | 1.50 mmol, 323 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)CO | C11H21NO3
reactant | 4′-chloro-4-hydroxybiphenyl | 1.50 mmol, 307 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9ClO
reactant | triphenylphosphine | 2.25 mmol, 608 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate toluene | 3.00 mmol, 1.36 mL | CCOC(=O)/N=N/C(=O)OCC.C1(=CC=CC=C1)C
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(tert-Butoxycarbonyl)-3-[(4′-chlorobiphenyl-4-yl)oxymethyl]piperidine | 401 mg, 67% | C(C)(C)(C)OC(=O)N1CC(CCC1)COC1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C23H28ClNO3
